US05965745
To a solution of 4-[5-benzoxycarbonyl-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester (3.46 grams, 8.06 mmol) in dimethylformamide (40 mL) and formic acid (2 mL) was added 10% palladium on carbon (1.5 grams). The resulting mixture was hydrogenated at 30 psi for 1.5 hours. The mixture was filtered through celite and the filtrate diluted with ethyl acetate. This solution was washed several times with 1 M hydrochloric acid (aq). The organics were then dried over magnesium sulfate and concentrated. Recrystallization from methylene chloride gave 3-(2-methoxy-4-methoxycarbonyl-benzyl)-1H-indole-5-carboxylic acid (1.97 grams, 73% yield).

reactant | 4-[5-benzoxycarbonyl-1H-indol-3-ylmethyl]-3-methoxy-benzoic acid methylester | 8.06 mmol, 3.46 grams | COC(C1=CC(=C(C=C1)CC1=CNC2=CC=C(C=C12)C(=O)OCC1=CC=CC=C1)OC)=O | C26H23NO5
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | formic acid | 2 mL | C(=O)O | CH2O2
catalyst | palladium on carbon | 1.5 grams | [Pd] | Pd
product | 3-(2-methoxy-4-methoxycarbonyl-benzyl)-1H-indole-5-carboxylic acid | 1.97 grams, 73% yield | COC1=C(CC2=CNC3=CC=C(C=C23)C(=O)O)C=CC(=C1)C(=O)OC | C19H17NO5
